US07576238B2
To chlorosulfonic acid (15 mL), cooled to −10° C. was added N-(7-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)-acetamide (1.44 g; 6.6 mmol). The reaction mixture was stirred at −10° C. for 15 min and quenched carefully by pouring over ice-water. The aqueous phase was extracted with CH2Cl2 (3×), the organic extracts combined, dried over Na2SO4, filtered and evaporated under reduced pressure to yield 6-acetylamino-3-methoxy-5,6,7,8-tetrahydronaphthalene-2-sulfonyl chloride as a white solid.

reactant | chlorosulfonic acid | 15 mL | ClS(=O)(=O)O | ClHO3S
reactant | N-(7-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)-acetamide | 6.6 mmol, 1.44 g | COC1=CC=C2CCC(CC2=C1)NC(C)=O | C13H17NO2
product | 6-acetylamino-3-methoxy-5,6,7,8-tetrahydronaphthalene-2-sulfonyl chloride | C(C)(=O)NC1CC=2C=C(C(=CC2CC1)S(=O)(=O)Cl)OC | C13H16ClNO4S
